US07265246B2
Add 5-bromomethyl-2-methylthiazole (390 mg, 2.03 mmol) in dimethylformamide (2 mL) dropwise to a suspension of potassium phthalimide (434 mg, 2.34 mmol) in dimethylformamide (8 mL). Stir the reaction under nitrogen at room temperature overnight. Concentrate the mixture in vacuo, dissolve in ethyl acetate (100 mL), and wash with water (100 mL). Dry the organic phase (sodium sulfate), filter, and concentrate. Perform flash chromatography on silica gel, eluting first with 4:1 hexane/ethyl acetate, then 100% ethyl acetate to afford 210 mg of 2-(2-methylthiazol-5-ylmethyl)isoindole-1,3-dione as a tan solid. MS: m/z=259 (MH+).

reactant | 5-bromomethyl-2-methylthiazole | 2.03 mmol, 390 mg | BrCC1=CN=C(S1)C | C5H6BrNS
reactant | potassium phthalimide | 2.34 mmol, 434 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 2-(2-methylthiazol-5-ylmethyl)isoindole-1,3-dione | 210 mg | CC=1SC(=CN1)CN1C(C2=CC=CC=C2C1=O)=O | C13H10N2O2S
